US07169773B2
N1-[2-oxo-2-(2,3,4,5-tetrahydro-1H-1-benzazepin-1-yl)ethyl]-N2-phenylbenzene -1,2-diamine
To a stirring solution of N-phenyl-o-phenylene diamine (10 g, 54.3 mM) in 100 ml of DMF at RT was added K2CO3 (8.25 g, 60 mM) followed by 1-(bromoacetyl)-2,3,4,5-tetrahydro-1H-1-benzazepine (14.56 g 54.3 mM). The resulting mixture was stirred at RT until TLC (Hex:AcOEt 3:1) showed completion of reaction. The mixture was filtered to remove the K2CO3 and then diluted with 800 mL of EtOAc and 200 mL of Et2O. This solution was washed successively with H2O (2×400 mL), brine (1×400 mL), 1 N HCl (2×400 mL), and H2O (1×400 mL), and the organics dried (MgSO4) and concentrated to give a greenish-black oil. The resultant oil was purified by silica gel flash column chromatography using hexane/EtOAc4/1 and the combined filtrates evaporated in vacuo to give 20 g of product. 1H NMR (300 MHz, CDCl3) 1.25–1.40 (m, 1H), 1.66–2.00 (m, 3H), 2.55.2.75 (m, 2H), 2.88 (t, J=13 Hz, 1H), 3.54(d, J=17 Hz, 1H), 4.10 (d, J=17 Hz, 1H), 4.57 (m, 1H), 6.80–7.80 (m, 12H), 7.47 (m, 1H).

reactant | N-phenyl-o-phenylene diamine | 54.3 mM, 10 g | C1(=CC=CC=C1)NC1=C(C=CC=C1)N | C12H12N2
reactant | K2CO3 | 60 mM, 8.25 g | C(=O)([O-])[O-].[K+].[K+]
reactant | 1-(bromoacetyl)-2,3,4,5-tetrahydro-1H-1-benzazepine | 54.3 mM, 14.56 g | BrCC(=O)N1CCCCC2=C1C=CC=C2 | C12H14BrNO
reactant | AcOEt | CCOC(=O)C | C4H8O2
solvent | DMF | 100 ml | CN(C)C=O | C3H7NO
product | N1-[2-oxo-2-(2,3,4,5-tetrahydro-1H-1-benzazepin-1-yl)ethyl]-N2-phenylbenzene -1,2-diamine | 20 g | O=C(CNC=1C(=CC=CC1)NC1=CC=CC=C1)N1CCCCC2=C1C=CC=C2 | C24H25N3O
